US08648099B2
Preparation of 5-(4-chlorophenyl)-N-(5-(morpholinomethyl)-2-oxooxazolidin-3-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 3-amino-5-(4-morpholinylmethyl)-2-oxazolidinone (CAN 43056-63-9) as starting materials; LC-MS (UV peak area/ESI) 97.7%, 515.1292 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 3-amino-5-(4-morpholinylmethyl)-2-oxazolidinone | NN1C(OC(C1)CN1CCOCC1)=O | C8H15N3O3
product | 5-(4-chlorophenyl)-N-(5-(morpholinomethyl)-2-oxooxazolidin-3-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1C(OC(C1)CN1CCOCC1)=O | C22H22ClF3N4O5
